US07605158B2
Monomethyl adipate (3.20 g) is dissolved in chloroform (70 ml), and thereto are added morpholine (2.61 g), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (5.75 g) and triethylamine (3.04 g) under ice-cooling. The mixture is then stirred at room temperature for 19 hours. Ice-water is added to the reaction solution and the mixture is extracted with chloroform. The organic layer is washed successively with 10% hydrochloric acid, a saturated aqueous sodium hydrogen carbonate solution and saturated brine, and dried over sodium sulfate. The solvent is removed by evaporation under reduced pressure to give methyl 6-morpholin-4-yl-6-oxohexanoate (4.63 g). APCI-MS M/Z:230[M+H]+

reactant | Monomethyl adipate | 3.20 g | C(CCCCC(=O)[O-])(=O)OC
reactant | morpholine | 2.61 g | N1CCOCC1 | C4H9NO
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 5.75 g | Cl.C(C)N=C=NCCCN(C)C
reactant | triethylamine | 3.04 g | C(C)N(CC)CC | C6H15N
solvent | chloroform | 70 ml | C(Cl)(Cl)Cl | CHCl3
product | methyl 6-morpholin-4-yl-6-oxohexanoate | 4.63 g | N1(CCOCC1)C(CCCCC(=O)OC)=O | C11H19NO4
